US05744641
A suspension of 1 g of N-diaminomethylene-2-methyl-4-chloro-5-methylsulfonylbenzamide [obtainableby reaction of 2-methyl-4-chloro-5-methylsulfonylbenzoyl chloride with guanidine in the presence of triethylamine], 7 ml of thiophenol and 6 g ofK2CO3 is heated at 180° for 90 min. It is dissolved in water and extracted with ethyl acetate, and the extract is evaporated. N-Diaminomethylene-2-methyl-4-(2-methylphenylthio)-5-methylsulfonylbenzamide is obtained, from which, after treatment with 1.5 g of sodium perborate in 30 ml of glacial acetic acid over a period of 2 hours at 60° C. in a water bath, N-diaminomethylene-2-methyl-4-(2-methylphenylsulfonyl)-5methylsulfonylbenzamide is obtained after customary working up.

reactant | N-diaminomethylene-2-methyl-4-chloro-5-methylsulfonylbenzamide | 1 g | NC(=NC(C1=C(C=C(C(=C1)S(=O)(=O)C)Cl)C)=O)N | C10H12ClN3O3S
reactant | 2-methyl-4-chloro-5-methylsulfonylbenzoyl chloride | CC1=C(C(=O)Cl)C=C(C(=C1)Cl)S(=O)(=O)C | C9H8Cl2O3S
reactant | guanidine | NC(=N)N | CH5N3
reactant | thiophenol | 7 ml | C1(=CC=CC=C1)S | C6H6S
solvent | water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-Diaminomethylene-2-methyl-4-(2-methylphenylthio)-5-methylsulfonylbenzamide | NC(=NC(C1=C(C=C(C(=C1)S(=O)(=O)C)SC1=C(C=CC=C1)C)C)=O)N | C17H19N3O3S2
